US07442791B2
120 mg (0.29 mmol) of trans-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid in 3 mL of CH2Cl2 were treated with 0.057 mL (0.44 mmol, 1.5 eq) of N,N,N′-trimethylethylenediamine and 0.48 mL (0.36 mmol, 1.5 eq) of NMM. The solution was cooled to 0° C. and 73.0 mg (0.38 mmol, 1.3 eq) of EDCI and 9 mg (0.06 mmol, 0.2 eq) of HOBT were added. The mixture was stirred at RT for 2 days, partitioned between CH2Cl2 and a saturated aqueous solution of NaHCO3. The organic phase was washed with brine, dried over Na2SO4 and evaporated. Column chromatography with CH2Cl2:MeOH 9:1 gave 118 mg (82%) of trans-N-(2-dimethylamino-ethyl)-N-methyl-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionamide as colorless oil, MS: 494 (MH+).

reactant | trans-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionic acid | 0.29 mmol, 120 mg | CN([C@@H]1CC[C@H](CC1)OCCC(=O)O)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C17H22F3NO5S
reactant | N,N,N′-trimethylethylenediamine | 0.44 mmol, 0.057 mL, 1.5 eq | CN(CCNC)C | C5H14N2
reactant | NMM | 0.36 mmol, 0.48 mL, 1.5 eq | CN1CCOCC1 | C5H11NO
reactant | EDCI | 0.38 mmol, 73.0 mg, 1.3 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.06 mmol, 9 mg, 0.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | trans-N-(2-dimethylamino-ethyl)-N-methyl-3-{4-[methyl-(4-trifluoromethyl-benzenesulfonyl)-amino]-cyclohexyloxy}-propionamide | 118 mg, 82% | CN(CCN(C(CCO[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)=O)C)C | C22H34F3N3O4S
